US08283354B2
To a solution of tert-butyl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate (480 mg, 1.11 mmol) in CH2Cl2 (10 mL) was added TFA (4 mL). The reaction was stirred for an hour, diluted with 10 mL CH2Cl2, and neutralized with a saturated aqueous NaHCO3 solution. The aqueous layer was extracted twice with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated. Purification via silica gel chromatography using 3-20% EtOAc/CH2Cl2 gave 2-(4-((R)-3-aminopyrrolidin-1-yl)-6-fluoroquinazolin-2-yl)phenol. LC/MS: m/z 325.5 (M+H)+ at 1.26 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | tert-butyl(R)-1-(6-fluoro-2-(2-hydroxyphenyl)quinazolin-4-yl)pyrrolidin-3-ylcarbamate | 1.11 mmol, 480 mg | FC=1C=C2C(=NC(=NC2=CC1)C1=C(C=CC=C1)O)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C23H25FN4O3
reactant | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-((R)-3-aminopyrrolidin-1-yl)-6-fluoroquinazolin-2-yl)phenol | N[C@H]1CN(CC1)C1=NC(=NC2=CC=C(C=C12)F)C1=C(C=CC=C1)O | C18H17FN4O
